US04540699
To a stirred solution of sodium (2.76 g) in methanol (50 ml) was added nitroguanidine (11.10 g. containing 25% water) and methanol (10 ml). The mixture was refluxed for 45 minutes and then ethyl α-formyl-β-(N-benzyl-2-oxo-4-pyridyl)propionate (25.07 g) in methanol (90 ml) was added over one hour. The reaction mixture was refluxed for 24 hours, cooled and evaporated under reduced pressure to afford an oily residue which was dissolved in water (100 ml). The solution was extracted with chloroform (3×50 ml) and the combined chloroform extracts were washed with water (3×25 ml). The combined aqueous layer and aqueous washings were taken to pH 5 with glacial acetic acid to give an oily solid. Isopropanol (35 ml) was added with warming to cause dissolution, on cooling a solid formed which was collected by filtration, washed with water, washed with isopropanol and recrystallised from water-acetic acid to give white crystals of 2-nitroamino-5-(1-benzyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (10.40 g), m.p. 200°-201° C.

reactant | sodium | 2.76 g | [Na] | Na
reactant | nitroguanidine | 11.10 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | ethyl α-formyl-β-(N-benzyl-2-oxo-4-pyridyl)propionate | 25.07 g | C(=O)C(C(=O)OCC)CC1=CC(N(C=C1)CC1=CC=CC=C1)=O | C18H19NO4
reactant | Isopropanol | 35 ml | C(C)(C)O | C3H8O
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 90 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2-nitroamino-5-(1-benzyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 10.40 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CC1=CC=CC=C1)=O | C17H15N5O4
